US07608639B2
A mixture of 2-fluoro-3-(trifluoromethyl)-phenol (4.87 g, 27.04 mmol) and iodomethane (4.60 g, 32.4 mmol) in acetone (50 mL) is cooled to 0° C. and then 325 mesh potassium carbonate (4.48 g, 32.4 mmol) is added. The reaction is warmed to rt and stirred for 17 hours under N2. The reaction filtered to remove the solids, and the filtrate is acidified with 1 N HCl. The mixture is diluted with water and extracted with Et2O. The organic layer is dried (Na2SO4), and the solvent is removed in vacuo to afford 4.76 g (91%) of 2-fluoro-3-methoxybenzotrifluoride that is utilized without purification. Rf=0.35 (4/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3).

reactant | 2-fluoro-3-(trifluoromethyl)-phenol | 27.04 mmol, 4.87 g | FC1=C(C=CC=C1C(F)(F)F)O | C7H4F4O
reactant | iodomethane | 32.4 mmol, 4.60 g | IC | CH3I
reactant | potassium carbonate | 32.4 mmol, 4.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2-fluoro-3-methoxybenzotrifluoride | 4.76 g, 91% | FC1=C(C=CC=C1OC)C(F)(F)F | C8H6F4O
